US05198449
N-[3-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]propyl]-2-pyrimidinamine
A mixture of equivalent amounts of 1-(3-chloropropyl)-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine, 2-aminopyrimidine, and sodium bicarbonate in 1-butanol is heated at reflux temperature until the reaction is complete. The solvent is removed and the residual material partitioned between water and methylene chloride. The methylene chloride layer is dried and concentrated to obtain the title compound.

reactant | 1-(3-chloropropyl)-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | ClCCCN1CCC(CC1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C21H25ClF2N2
reactant | 2-aminopyrimidine | NC1=NC=CC=N1 | C4H5N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | N-[3-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]propyl]-2-pyrimidinamine | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCNC1=NC=CC=N1)NC1=CC=C(C=C1)F | C25H29F2N5
